US09216173B2
To a solution of {1-[(tert-butoxycarbonyl)amino]cyclopropyl}methyl 4-methylbenzenesulfonate (100 g, 293 mmol) in DMF (1000 mL) was added 18-crown-6 (76.8 g, 291 mmol) and phthalimide potassium salt (80.5 g, 435 mmol). The reaction mixture was heated to 50° C. After 3 hours, the reaction mixture was cooled to ambient temperature, quenched with cold water (2000 mL), and filtered to afford crude solids. The solids were washed with petroleum ether (3×200 mL) and dried under reduced pressure to afford tert-butyl {1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]cyclopropyl}carbamate. The material was used without further purification.

reactant | {1-[(tert-butoxycarbonyl)amino]cyclopropyl}methyl 4-methylbenzenesulfonate | 293 mmol, 100 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CC1)NC(=O)OC(C)(C)C | C16H23NO5S
reactant | 18-crown-6 | 291 mmol, 76.8 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | phthalimide potassium salt | 435 mmol, 80.5 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
product | tert-butyl {1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]cyclopropyl}carbamate | O=C1N(C(C2=CC=CC=C12)=O)CC1(CC1)NC(OC(C)(C)C)=O | C17H20N2O4
